US08461179B1
A mixture of 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(4-fluoro-3-(pyrrolidin-1-ylmethyl)phenyl)urea (135 mg, 0.196 mmol) in TFA (3 mL) was stirred at RT for 3 h. The mixture was concentrated to dryness, treated with EtOAc and satd. NaHCO3 and stirred for 15 min. The resulting solid was collected via filtration and dried to afford 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(4-fluoro-3-(pyrrolidin-1-ylmethyl)phenyl)urea (98 mg, 88% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.19 (br s, 1H), 8.71 (br s, 1H), 8.41 (s, 1H), 8.13 (m, 1H), 7.73 (s, 1H), 7.54-7.48 (m, 2H), 7.27 (m, 1H), 7.04 (m, 2H), 6.23 (s, 1H), 4.13 (q, J=7.2 Hz, 2H), 3.54 (s, 2H), 2.86 (s, 3H), 2.42 (m, 4H), 1.66 (m, 4H), 1.20 (t, J=6.9 Hz, 3H); MS (ESI) m/z: 567.2 [M+H]+.

reactant | 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(4-fluoro-3-(pyrrolidin-1-ylmethyl)phenyl)urea | 0.196 mmol, 135 mg | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)N(C)CC1=CC=C(C=C1)OC)CC)=O)NC(=O)NC1=CC(=C(C=C1)F)CN1CCCC1)F | C37H37ClF2N6O3
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(4-fluoro-3-(pyrrolidin-1-ylmethyl)phenyl)urea | 98 mg, 88% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=C(C=C1)F)CN1CCCC1)F | C29H29ClF2N6O2
